US05968875
3-Trifluoromethyl-2-pyridinol (5.0 g, 0.031 mol) was dissolved with stirring in methanol (75 mL) and bromine (5.25 g, 0.033 mol) was added dropwise with cooling. The mixture was stirred overnight and evaporated to dryness. The residue was dissolved in ethyl acetate (250 mL), washed twice with water and brine, dried over sodium sulphate and evaporated to dryness. Chromatography over silica (20% ethyl acetate:80% hexane) gave 3-trifluoromethyl-5-bromo-2-pyridinol (5.2 g) as a cream solid. M.P. 160-162° C.

reactant | 3-Trifluoromethyl-2-pyridinol | 0.031 mol, 5.0 g | FC(C=1C(=NC=CC1)O)(F)F | C6H4F3NO
reactant | bromine | 0.033 mol, 5.25 g | BrBr | Br2
solvent | methanol | 75 mL | CO | CH4O
product | 3-trifluoromethyl-5-bromo-2-pyridinol | 5.2 g | FC(C=1C(=NC=C(C1)Br)O)(F)F | C6H3BrF3NO
